* LVS reference netlist for eeg_sdm1ct (KLayout sky130.lvs deck).
*
* Hierarchical mirror of source/trials/20260902/xschem/eeg_sdm1ct.spice.
* Deck conventions as in full2_ref.spice / pga_ref.spice:
*   - R: 3-terminal positional-value form, L = N_seg * 34.5u
*     (500k = 5 segs -> 172.5u).
*   - 2026-09-11: RF (100Meg lossy-integrator ballast) replaced by
*     pseudo-resistors (XRFP/XRFN -> eeg_pseudo_res, def copied from
*     pseudo_res_ref.spice); verified equal-or-better in simulation.
*   - MIM A/P in SI:  CI 20p  = 5x5 of 20x20   capm -> A=1e-8   P=2e-3
*                     CQ 1p   = 2x1 of 20x12.5 capm -> A=5e-10  P=1.3e-4
*   - Behavioral B-sources resolved: BIT1 = NBIT0 = BIT (wires),
*     NBIT1 = BIT0 = BITB (one eeg_inv: BIT -> BITB).
*   - NCLK is a no-connect pin (like PGA's S64): the layout provides a
*     labeled stub only.
*   - The stage-2 devices of eeg_fd_ota_full2_nc live in the layout cell
*     "stage2"; ref instantiates it with N2P=N1P / N2N=N1N (same as
*     ota_nc_ref.spice).

.subckt eeg_tg_lowq A B EN ENB VDD18 VSS
MMN B EN A VSS sky130_fd_pr__nfet_01v8 L=0.15u W=0.84u
MMP B ENB A VDD18 sky130_fd_pr__pfet_01v8 L=0.15u W=1.68u
MMND B ENB B VSS sky130_fd_pr__nfet_01v8 L=0.15u W=0.42u
MMPD B EN B VDD18 sky130_fd_pr__pfet_01v8 L=0.15u W=0.84u
MMNDA A ENB A VSS sky130_fd_pr__nfet_01v8 L=0.15u W=0.42u
MMPDA A EN A VDD18 sky130_fd_pr__pfet_01v8 L=0.15u W=0.84u
.ends eeg_tg_lowq

.subckt eeg_inv A Y VDD18 VSS
MMN Y A VSS VSS sky130_fd_pr__nfet_01v8 L=0.15u W=1u
MMP Y A VDD18 VDD18 sky130_fd_pr__pfet_01v8 L=0.15u W=2u
.ends eeg_inv

.subckt eeg_pseudo_res A B
MMP1 M M A A sky130_fd_pr__pfet_01v8 L=4u W=1u
MMP2 M M B B sky130_fd_pr__pfet_01v8 L=4u W=1u
.ends eeg_pseudo_res

.subckt eeg_nand2 A B Y VDD18 VSS
MMN1 Y A N1 VSS sky130_fd_pr__nfet_01v8 L=0.15u W=1u
MMN2 N1 B VSS VSS sky130_fd_pr__nfet_01v8 L=0.15u W=1u
MMP1 Y A VDD18 VDD18 sky130_fd_pr__pfet_01v8 L=0.15u W=2u
MMP2 Y B VDD18 VDD18 sky130_fd_pr__pfet_01v8 L=0.15u W=2u
.ends eeg_nand2

.subckt eeg_strongarm INP INN OUTP OUTN CLK VDD18 VSS
MM0 NTAIL CLK VSS VSS sky130_fd_pr__nfet_01v8 L=0.15u W=8u
MM1 D1 INP NTAIL VSS sky130_fd_pr__nfet_01v8 L=0.5u W=4u
MM2 D2 INN NTAIL VSS sky130_fd_pr__nfet_01v8 L=0.5u W=4u
MM3 OUTN OUTP D1 VSS sky130_fd_pr__nfet_01v8 L=0.15u W=1u
MM4 OUTP OUTN D2 VSS sky130_fd_pr__nfet_01v8 L=0.15u W=1u
MM5 OUTP OUTN VDD18 VDD18 sky130_fd_pr__pfet_01v8 L=0.15u W=1u
MM6 OUTN OUTP VDD18 VDD18 sky130_fd_pr__pfet_01v8 L=0.15u W=1u
MM7 OUTP CLK VDD18 VDD18 sky130_fd_pr__pfet_01v8 L=0.15u W=2u
MM8 OUTN CLK VDD18 VDD18 sky130_fd_pr__pfet_01v8 L=0.15u W=2u
MM9 D1 CLK VDD18 VDD18 sky130_fd_pr__pfet_01v8 L=0.15u W=1u
MM10 D2 CLK VDD18 VDD18 sky130_fd_pr__pfet_01v8 L=0.15u W=1u
.ends eeg_strongarm

.subckt eeg_cmfb_amp_dl2 VCM_SENSE VCM_REF VBN VBP VDD18 VSS
MM6 NLEFT VCM_SENSE NTAIL VSS sky130_fd_pr__nfet_01v8 L=2u W=2u
MM7 VBP VCM_REF NTAIL VSS sky130_fd_pr__nfet_01v8 L=2u W=2u
MM8 NLEFT NLEFT VDD18 VDD18 sky130_fd_pr__pfet_01v8 L=2u W=2u
MM9 VBP VBP VDD18 VDD18 sky130_fd_pr__pfet_01v8 L=4u W=4u
MM10 NTAIL VBN VSS VSS sky130_fd_pr__nfet_01v8 L=4u W=12u
.ends eeg_cmfb_amp_dl2

.subckt eeg_cmfb_amp_dl2_s2 VCM_SENSE VCM_REF VBN VBP VDD18 VSS
MM6 NLEFT VCM_SENSE NTAIL VSS sky130_fd_pr__nfet_01v8 L=2u W=2u
MM7 VBP VCM_REF NTAIL VSS sky130_fd_pr__nfet_01v8 L=2u W=2u
MM8 NLEFT NLEFT VDD18 VDD18 sky130_fd_pr__pfet_01v8 L=2u W=2u
MM9 VBP VBP VDD18 VDD18 sky130_fd_pr__pfet_01v8 L=4u W=0.5u
MM10 NTAIL VBN VSS VSS sky130_fd_pr__nfet_01v8 L=4u W=12u
.ends eeg_cmfb_amp_dl2_s2

.subckt eeg_bias_gen VBN VBNF VBP VDD18 VSS
MMP1 VBN VBP VDD18 VDD18 sky130_fd_pr__pfet_01v8 L=4u W=10u
MMN1 VBN VBN VSS VSS sky130_fd_pr__nfet_01v8 L=4u W=10u
MMP2 VBP VBP VDD18 VDD18 sky130_fd_pr__pfet_01v8 L=4u W=10u
MMN2 VBP VBN SNS2 VSS sky130_fd_pr__nfet_01v8 L=4u W=40u
RRSET SNS2 VSS VSS 25k sky130_fd_pr__res_xhigh_po_0p69 W=0.69u L=8.62u
XRSTART VDD18 VBN eeg_pseudo_res
RRF VBN VBNF VSS 10Meg sky130_fd_pr__res_xhigh_po_0p69 W=0.69u L=3450u
CCF VBNF VSS sky130_fd_pr__model__cap_mim C=1e-10 A=5e-8 P=1e-2
.ends eeg_bias_gen

.subckt eeg_fd_ota_core_soft INP INN VBP VBN OUTP OUTN VCM_SENSE VCM_REF VDD18 VSS
MM1 OUTP INP TAIL VSS sky130_fd_pr__nfet_01v8 L=4u W=240u
MM2 OUTN INN TAIL VSS sky130_fd_pr__nfet_01v8 L=4u W=240u
MMDP OUTP VSS TAIL VSS sky130_fd_pr__nfet_01v8 L=4u W=20u
MM3 OUTP VBP VDD18 VDD18 sky130_fd_pr__pfet_01v8 L=4u W=48u
MM4 OUTN VBP VDD18 VDD18 sky130_fd_pr__pfet_01v8 L=4u W=48u
MM5 TAIL VBN VSS VSS sky130_fd_pr__nfet_01v8 L=4u W=96u
RRCM1 OUTP VCM_SENSE VSS 5Meg sky130_fd_pr__res_xhigh_po_0p69 W=0.69u L=1725u
RRCM2 OUTN VCM_SENSE VSS 5Meg sky130_fd_pr__res_xhigh_po_0p69 W=0.69u L=1725u
RRLOADP OUTP VCM_REF VSS 2Meg sky130_fd_pr__res_xhigh_po_0p69 W=0.69u L=690u
RRLOADN OUTN VCM_REF VSS 2Meg sky130_fd_pr__res_xhigh_po_0p69 W=0.69u L=690u
.ends eeg_fd_ota_core_soft

.subckt stage2 N2P N2N OUTP OUTN VBP2 VCM2 VCM_REF VDD18 VSS
MM21 OUTP N2P VSS VSS sky130_fd_pr__nfet_01v8 L=12u W=12u
MM22 OUTN N2N VSS VSS sky130_fd_pr__nfet_01v8 L=12u W=12u
MM23 OUTP VBP2 VDD18 VDD18 sky130_fd_pr__pfet_01v8 L=12u W=48u
MM24 OUTN VBP2 VDD18 VDD18 sky130_fd_pr__pfet_01v8 L=12u W=48u
RRCMO1 OUTP VCM2 VSS 5Meg sky130_fd_pr__res_xhigh_po_0p69 W=0.69u L=1725u
RRCMO2 OUTN VCM2 VSS 5Meg sky130_fd_pr__res_xhigh_po_0p69 W=0.69u L=1725u
RRLOADO1 OUTP VCM_REF VSS 2Meg sky130_fd_pr__res_xhigh_po_0p69 W=0.69u L=690u
RRLOADO2 OUTN VCM_REF VSS 2Meg sky130_fd_pr__res_xhigh_po_0p69 W=0.69u L=690u
RRZP N2P NZP VSS 20k sky130_fd_pr__res_xhigh_po_0p69 W=0.69u L=6.9u
RRZN N2N NZN VSS 20k sky130_fd_pr__res_xhigh_po_0p69 W=0.69u L=6.9u
CCP NZP OUTP sky130_fd_pr__model__cap_mim C=1e-11 A=5e-9 P=1.3e-3
CCN NZN OUTN sky130_fd_pr__model__cap_mim C=1e-11 A=5e-9 P=1.3e-3
.ends stage2

.subckt eeg_fd_ota_full2_nc INP INN VCM_REF OUTP OUTN VDD18 VSS
XBG VBNRAW VBN VBP_BIAS VDD18 VSS eeg_bias_gen
XSTG1 INP INN VBP1 VBN N1P N1N VCM1 VCM_REF VDD18 VSS eeg_fd_ota_core_soft
XCM1 VCM1 VCM_REF VBN VBP1 VDD18 VSS eeg_cmfb_amp_dl2
XCM2 VCM2 VCM_REF VBN VBP2 VDD18 VSS eeg_cmfb_amp_dl2_s2
XS2 N1P N1N OUTP OUTN VBP2 VCM2 VCM_REF VDD18 VSS stage2
.ends eeg_fd_ota_full2_nc

.subckt eeg_sdm1ct VINP VINN VCM_REF VP VN BIT NBIT OINTP OINTN CLK NCLK VDD18 VSS
* CT integrator
RRINP VINP INP VSS 500k sky130_fd_pr__res_xhigh_po_0p69 W=0.69u L=172.5u
RRINN VINN INN VSS 500k sky130_fd_pr__res_xhigh_po_0p69 W=0.69u L=172.5u
XOTA INP INN VCM_REF OINTP OINTN VDD18 VSS eeg_fd_ota_full2_nc
CCIP OINTN INP sky130_fd_pr__model__cap_mim C=2e-11 A=1e-8 P=2e-3
XRFP OINTN INP eeg_pseudo_res
CCIN OINTP INN sky130_fd_pr__model__cap_mim C=2e-11 A=1e-8 P=2e-3
XRFN OINTP INN eeg_pseudo_res
* NRZ DAC (BIT1=NBIT0=BIT wires; NBIT1=BIT0=BITB via XINV)
XREFP1 VDACP VP BIT BITB VDD18 VSS eeg_tg_lowq
XREFP0 VDACP VN BITB BIT VDD18 VSS eeg_tg_lowq
XREFN1 VDACN VN BIT BITB VDD18 VSS eeg_tg_lowq
XREFN0 VDACN VP BITB BIT VDD18 VSS eeg_tg_lowq
RRDACP INP VDACP VSS 500k sky130_fd_pr__res_xhigh_po_0p69 W=0.69u L=172.5u
RRDACN INN VDACN VSS 500k sky130_fd_pr__res_xhigh_po_0p69 W=0.69u L=172.5u
XINV BIT BITB VDD18 VSS eeg_inv
* quantizer + hold caps + SR latch
XCMP OINTP OINTN QP QN CLK VDD18 VSS eeg_strongarm
CCQP QP VSS sky130_fd_pr__model__cap_mim C=1e-12 A=5e-10 P=1.3e-4
CCQN QN VSS sky130_fd_pr__model__cap_mim C=1e-12 A=5e-10 P=1.3e-4
XND1 QP NBIT BIT VDD18 VSS eeg_nand2
XND2 QN BIT NBIT VDD18 VSS eeg_nand2
.ends eeg_sdm1ct
